US05846982
N-(2-pyridinyl)-2-(4-(6-chloro-1H-indol-3-yl)-1,2,3,6-tetrahydropyridin-1-yl)acetamide
A mixture of 5.0 gm (21.5 mMol) 6-chloro-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole, 4.0 gm (23.6 mMol) N-(2-pyridinyl)-2-chloroacetamide and 4.45 gm (32 mMol) potassium carbonate in 25 mL dimethylformamide were heated to about 90° C. for 2 hours under nitrogen. The reaction mixture was concentrated under reduced pressure and was then partitioned between chloroform and water. The organic phase was separated, washed sequentially with water and saturated aqueous sodium chloride, dried over sodium sulfate and concentrated under reduced pressure. The residue was crystallized from ethanol to give 2.4 gm (30.4%) of the title compound as a yellow solid.

reactant | 6-chloro-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 21.5 mMol, 5.0 gm | ClC1=CC=C2C(=CNC2=C1)C=1CCNCC1 | C13H13ClN2
reactant | N-(2-pyridinyl)-2-chloroacetamide | 23.6 mMol, 4.0 gm | N1=C(C=CC=C1)NC(CCl)=O | C7H7ClN2O
reactant | potassium carbonate | 32 mMol, 4.45 gm | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | N-(2-pyridinyl)-2-(4-(6-chloro-1H-indol-3-yl)-1,2,3,6-tetrahydropyridin-1-yl)acetamide | 2.4 gm, 30.4% | N1=C(C=CC=C1)NC(CN1CCC(=CC1)C1=CNC2=CC(=CC=C12)Cl)=O | C20H19ClN4O
